US08895571B2
Step A: tert-butyl[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]carbamate
To a solution of (2S)-2-[(tert-butoxycarbonyl)amino]-3-(3-fluorophenyl)propanoic acid [Aldrich] (3.00 g, 10.6 mmol) in tetrahydrofuran (30 mL, 400 mmol) at 0° C. was added 1.0 M borane-THF complex in tetrahydrofuran (32 mL, 32 mmol). The reaction mixture was stirred at room temperature for 3 hrs, cooled with an ice bath, quenched with AcOH:MeOH (1:5, 10 mL and partitioned between saturated aqueous NaHCO3 and DCM. The aqueous phase was then extracted several times with DCM. The combined organic fractions were dried over Na2SO4 and concentrated under reduced pressure. The residue was used directly for the next reaction. LCMS (ES) m/e 270 (M+H)+.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-3-(3-fluorophenyl)propanoic acid | 10.6 mmol, 3.00 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC(=CC=C1)F | C14H18FNO4
reactant | tetrahydrofuran | 400 mmol, 30 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 32 mmol, 32 mL | O1CCCC1 | C4H8O
product | tert-butyl[(1S)-1-(3-fluorobenzyl)-2-hydroxyethyl]carbamate | C(C)(C)(C)OC(N[C@H](CO)CC1=CC(=CC=C1)F)=O | C14H20FNO3
